US04558043
2 ml of 6N hydrochloric acid are added to a mixture of 2.95 g (20 mmole) of 6-amino-5-methylbenzofuran, 3.17 g (24 mmole) of 2,5-dimethoxytetrahydrofuran and 50 ml of dioxane and the whole is boiled under reflux for 40 minutes. The whole is then concentrated in vacuo, the residue is taken up in methylene chloride and the organic phase is washed three times with water. The crude product remaining after drying and removal of the methylene chloride is chromatographed over silica gel with ether/petroleum ether. Subsequent distillation of the pure fractions in a bulb tube (105°, 5.10-2 torr) yields 5-methyl-6-(pyrrol-1-yl)-benzofuran in the form of a pale yellow oil.

reactant | hydrochloric acid | 6N, 2 ml | Cl | ClH
reactant | 6-amino-5-methylbenzofuran | 20 mmole, 2.95 g | NC1=CC2=C(C=CO2)C=C1C | C9H9NO
reactant | 2,5-dimethoxytetrahydrofuran | 24 mmole, 3.17 g | COC1OC(CC1)OC | C6H12O3
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 5-methyl-6-(pyrrol-1-yl)-benzofuran | CC=1C(=CC2=C(C=CO2)C1)N1C=CC=C1 | C13H11NO
